US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-2-methylnicotinamide
Using N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (120 mg, 0.371 mmol), 2-methylpyridine-3-carboxylic acid (76 mg, 0.557 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (114 mg, 0.594 mmol), 1-hydroxybenzotriazole (81 mg, 0.600 mmol), triethylamine (0.09 mL, 0.631 mmol) and N,N-dimethylformamide (6.0 mL), and by a reaction in the same manner as in Example 187, the title compound (52 mg, 31%) was obtained as pale-pink crystals.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.371 mmol, 120 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | 2-methylpyridine-3-carboxylic acid | 0.557 mmol, 76 mg | CC1=NC=CC=C1C(=O)O | C7H7NO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.594 mmol, 114 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.600 mmol, 81 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.631 mmol, 0.09 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-2-methylnicotinamide | 52 mg, 31% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(C2=C(N=CC=C2)C)=O)C)C1 | C24H22N6O3
